US07696223B2
e) 4-Hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester
Prepared in analogy to that of Example 6(a) from 6,8-dibromo-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester, ammonium formate and Pd/C. The title compound: 1H NMR (200 MHz, CDCl3): δ (ppm)=11.71 (s, 1H), 8.51 (s, 1H), 8.41 (d, 1H, J=7.8 Hz), 7.64-7.24 (m, 3H), 4.56 (q, 2H, J=7.1 Hz), 3.97 (s, 3H), 1.52 (t, 3H, J=7.1 Hz).

reactant | 6,8-dibromo-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2N(C3=C(C=C(C=C3C2C1O)Br)Br)C | C15H12Br2N2O3
reactant | ammonium formate | C(=O)[O-].[NH4+]
catalyst | Pd/C | [Pd] | Pd
product | 4-Hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2N(C3=CC=CC=C3C2C1O)C | C15H14N2O3
